US07317021B2
F5. N-(4-Methyl-6-vinyl-pyridin-2-yl)-acetamide
37.5 g of N-(6-bromo-4-methyl-pyridin-2-yl)-acetamide (compound G4) is dissolved in 750 ml anoxic dioxane under a nitrogen atmosphere. Subsequently, 70.3 ml of vinyl tributylstannane and 11.5 g trans-dichloro-bis(triphenylphosphane)palladium-(II) are added. The reaction mixture is heated to 100° C. for 65 h. Thereafter, the volatile components are removed in vacuo and the remaining residue is purified by chromatography on silica gel (eluent: toluene/ethyl acetate 6:1) to afford 21.0 g of the title compound. M.p. 140° C. GC-MS: 176.2 (M+). TLC: Rf=0.40 (toluene/ethyl acetate 4:1).

reactant | N-(6-bromo-4-methyl-pyridin-2-yl)-acetamide | 37.5 g | BrC1=CC(=CC(=N1)NC(C)=O)C | C8H9BrN2O
reactant | vinyl tributylstannane | 70.3 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 750 ml | O1CCOCC1 | C4H8O2
product | N-(4-Methyl-6-vinyl-pyridin-2-yl)-acetamide | 21.0 g | CC1=CC(=NC(=C1)C=C)NC(C)=O | C10H12N2O
